US08357694B2
N-(4-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(2-(trifluoromethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine
This was synthesized by using 4-(6-(2-(trifluoromethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, N-methylbutan-1-amine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=80-82° C.; 1H NMR 400 MHz (DMSO-d6) δ 9.54 (s, 1 H); 8.38-8.35 (m, 2 H), 7.82-7.75 (m, 3 H), 7.58 (t, 1 H), 7.51-7.40 (m, 3 H), 7.27 (d, J=8.0 Hz, 1 H), 7.17 (d, J=8.4 Hz, 2 H), 6.76 (d, J=7.6 Hz, 1 H), 4.64 (t, J=8 Hz, 1 H), 3.19-3.12 (m, 2 H), 2.68-2.65 (m, 2 H), 2.55-2.51 (m, 2), 2.37-2.33 (m, 2 H), 2.21 (s, 3 H), 1.40-1.36 (m, 2 H), 1.30-1.23 (m, 2 H), 0.88 (t, J=7.2 Hz, 3 H). LCMS m/e 531 (M+H).

reactant | 4-(6-(2-(trifluoromethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=C(C=CC=C1)C(F)(F)F)C=CC=C3 | C28H24F3N3O3S
reactant | N-methylbutan-1-amine | CNCCCC | C5H13N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(4-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(2-(trifluoromethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine | C(CCC)N(CCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=C(C=CC=C1)C(F)(F)F)C=CC=C3)C | C32H33F3N4
